US04173633
The solution of 50 g of 2-cyanomethyl-6-methoxy-1-tetralone in 1000 ml of ethanol is hydrogenated in the presence of 15 g of Raney nickel at atmospheric pressure and room temperature until 2 mole equivalents of hydrogen are consumed. The mixture is filtered, the filtrate evaporated and the crude product dissolved in 500 ml of N hydrochloric acid. The solution is washed with diethyl ether, treated with charcoal, filtered and the filtrate is basified with 3 N aqueous sodium hydroxide. It is extracted with methylene chloride, the extract dried, evaporated, the residue crystallized from petroleum ether and recrystallized from hexane, to yield the 7-methoxy-3,3a,4,5-tetrahydro-2H-benz[g]indole melting at 102°-104°.

reactant | 2-cyanomethyl-6-methoxy-1-tetralone | 50 g | C(#N)CC1C(C2=CC=C(C=C2CC1)OC)=O | C13H13NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 1000 ml | C(C)O | C2H6O
catalyst | Raney nickel | 15 g | [Ni] | Ni
product | 7-methoxy-3,3a,4,5-tetrahydro-2H-benz[g]indole | COC=1C=CC2=C(CCC3CCN=C23)C1 | C13H15NO
